US06235771B1
To methyl 7-(4-ethoxyphenyl)-2,3-dihydro-1-benzothiepine-4-carboxylate (960 mg) were added THF (19.2 ml), methanol (9.6 ml) and 1N sodium hydroxide (3.4 ml), and the mixture was stirred at room temperature for 3 hours. Under reduced pressure, the organic solvent was evaporated. To the residue was added ethyl acetate, and the mixture was extracted with water. To the mixture was added 6N hydrochloric acid (2 ml), and the mixture was extracted with ethyl acetate/THF, washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated to give 7-(4-ethoxyphenyl)-2,3-dihydro-1-benzothiepine-4-carboxylic acid (850 mg).

reactant | methyl 7-(4-ethoxyphenyl)-2,3-dihydro-1-benzothiepine-4-carboxylate | 960 mg | C(C)OC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCS2)C(=O)OC)C1 | C20H20O3S
reactant | THF | 19.2 ml | C1CCOC1 | C4H8O
reactant | sodium hydroxide | 1N, 3.4 ml | [OH-].[Na+]
solvent | methanol | 9.6 ml | CO | CH4O
product | 7-(4-ethoxyphenyl)-2,3-dihydro-1-benzothiepine-4-carboxylic acid | 850 mg | C(C)OC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCS2)C(=O)O)C1 | C19H18O3S
